US07354932B2
Preparation of trans-1-hydroxymethyl-2-(tert-butyl-dimethyl-silanyloxymethyl)-cyclopropane (McDougal, P. G.; Rico, J. G.; Oh, Y.; Condon, B. D. J. Org. Chem. 1986, 51, 3388-3390)
To a cooled (0° C.) stirred solution of trans-1,2-cyclopropanedimethanol (2.0 g, 20 mmol) in THF (40 mL) was slowly added NaH (60% dispersion in oil, 0.80 g, 20 mmol). Stirring was continued at 0° C. for 10 min. tert-Butyldimethylchlorosilane (3.0 g, 20 mmol) was added. The thick white slurry was allowed to warm to room temperature and stirring was continued for 10 min. The resultant mixture was poured into diethyl ether (400 mL) and washed with 10% K2CO3 (100 mL) then washed again with brine (100 mL). The separated organic layer was dried over Na2SO4 and concentrated. The crude material was purified by flash column chromatography (5 cm id., 100 g silica gel, eluted with 5:1 hexanes/ethyl acetate) to give the mono-protected desired product as a clear oil (2.8 g, 65%). 1H NMR (CDCl3) δ 0.05 (s, 6H), 0.41-0.53 (m, 2H), 0.89 (s, 9H), 0.89-1.04 (m, 2H), 1.41 (t, 1H, J=5.8 Hz), 3.41-3.50 (m, 3H), 3.60 (dd, 1H, J=11.2, 5.8 Hz).

reactant | trans-1,2-cyclopropanedimethanol | 20 mmol, 2.0 g | [C@@H]1([C@@H](C1)CO)CO | C5H10O2
reactant | NaH | 20 mmol, 0.80 g | [H-].[Na+]
reactant | tert-Butyldimethylchlorosilane | 20 mmol, 3.0 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | diethyl ether | 400 mL | C(C)OCC | C4H10O
reactant | THF | 40 mL | C1CCOC1 | C4H8O
product | trans-1-hydroxymethyl-2-(tert-butyl-dimethyl-silanyloxymethyl)-cyclopropane | 2.8 g, 65% | OC[C@H]1[C@@H](C1)C(O[SiH2]C(C)(C)C)(C)C | C11H24O2Si
